US06900216B2
A mixture of 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl)butan-1-one (1.06 g), 2-imidazolidinethione (0.255 g) and ethanol (25 ml) was heated under reflux for 20 minutes. Acetic acid (12 ml) was added, the mixture was heated under reflux for 21 hours, then the solvents were removed in vacuo and the solid residue recrystallised from propan-2-ol (40 ml) to give 3-(4-chlorobenzo[b]thiophen-2-yl)-2-ethyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (0.72 g) as a white solid, m.p. 187-189° C.

reactant | 2-bromo-1-(4-chlorobenzo[b]thiophen-2-yl)butan-1-one | 1.06 g | BrC(C(=O)C1=CC2=C(S1)C=CC=C2Cl)CC | C12H10BrClOS
reactant | 2-imidazolidinethione | 0.255 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | Acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 3-(4-chlorobenzo[b]thiophen-2-yl)-2-ethyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.72 g | Br.ClC1=CC=CC=2SC(=CC21)C=2N1C(SC2CC)=NCC1 | InChI=1S/C15H13ClN2S2.BrH/c1-2-11-14(18-7-6-17-15(18)20-11)13-8-9-10(16)4-3-5-12(9)19-13;/h3-5,8H,2,6-7H2,1H3;1H
